US05006563
A solution of 5.50 g of 3-chlorobenzyl bromide in 100 ml of dry ether was added slowly to 0.98 g of magnesium in 150 ml of dry ether under nitrogen. The Grignard reagent was stirred at ambient temperature for one hour and then added to a solution of 2.86 g of 3-[(dimethylamino)methyl]benzonitrile in 150 ml of dry ether. The resulting slurry was stirred at room temperature overnight and then quenched with the dropwise addition of saturated ammonium chloride solution. This was diluted with water and the layers separated. The aqueous phase was extracted with ethyl acetate and the combined organic extracts were dried (Na2SO4), filtered, and evaporated. The residue was purified by flash chromatography (silica gel; ethyl acetate) and then treated with ethereal HCl until acidic to wet litmus paper. The precipitate was collected and recrystallized from ethanol-ether to give 2.2 g of 2-(3-chlorophenyl)-1-[3-[(dimethylamino)methyl]phenyl]ethanone hydrochloride, m.p. 187°-189° C.

reactant | 3-chlorobenzyl bromide | 5.50 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | magnesium | 0.98 g | [Mg] | Mg
reactant | 3-[(dimethylamino)methyl]benzonitrile | 2.86 g | CN(C)CC=1C=C(C#N)C=CC1 | C10H12N2
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 150 ml | CCOCC | C4H10O
reactant | ether | 150 ml | CCOCC | C4H10O
product | 2-(3-chlorophenyl)-1-[3-[(dimethylamino)methyl]phenyl]ethanone hydrochloride | 2.2 g | Cl.ClC=1C=C(C=CC1)CC(=O)C1=CC(=CC=C1)CN(C)C | InChI=1S/C17H18ClNO.ClH/c1-19(2)12-14-6-3-7-15(9-14)17(20)11-13-5-4-8-16(18)10-13;/h3-10H,11-12H2,1-2H3;1H
